US09120749B2
Example 379 1-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone
Following general procedure D, 1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone (32 mg, 0.079 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (32 mg, 0.118 mmol) to afford the desired product (24.0 mg, 65%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 8.91 (s, 1H), 8.33 (d, J=1.9 Hz, 1H), 7.97 (dd, J=8.7, 1.9 Hz, 1H), 7.87 (d, J=8.7 Hz, 1H), 7.47 (s, 1H), 7.37 (d, J=11.8 Hz, 1H), 4.27-4.18 (m, H), 2.69 (s, 3H), 2.59-2.55 (m, 2H), 2.52 (s, 6H), 2.34 (d, J=12.7 Hz, 2H), 1.99 (d, J=13.2 Hz, 2H), 1.84-1.74 (m, 1H), 1.67-1.55 (m, 2H), 1.28-1.17 (m, 2H). ESI MS m/z 470 [C26H29ClFN3O2+H]+; HPLC>99% (AUC), tR=10.56 min.

reactant | 1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone | 0.079 mmol, 32 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | C20H26BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.118 mmol, 32 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | 1-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone | 24.0 mg, 65% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | C26H29ClFN3O2
